US08084395B2
1.44 g (4.6 mmoles) of 4-[3-(4-Fluoro-phenyl)-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridine-2-carbonitrile is stirred at room temperature in 8 mL of t-butanol in the presence of 1.03 g (18.3 mmoles) of powdered potassium hydroxide. The reaction is stirred at room temperature for 4 hours, concentrated under vacuum and poured into water and ethyl acetate (1/1). Chlorhydric acid 2N is added to the solution to reach pH=5 and the solution is extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. After concentration 800 mg of 4-[3-(4-Fluoro-phenyl)-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridine-2-carboxylic acid amide are obtained as white solid.

reactant | 4-[3-(4-Fluoro-phenyl)-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridine-2-carbonitrile | 4.6 mmoles, 1.44 g | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C2=CC(=NC=C2)C#N | C19H11FN4
reactant | potassium hydroxide | 18.3 mmoles, 1.03 g | [OH-].[K+]
solvent | t-butanol | 8 mL | C(C)(C)(C)O | C4H10O
product | 4-[3-(4-Fluoro-phenyl)-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridine-2-carboxylic acid amide | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C2=CC(=NC=C2)C(=O)N | C19H13FN4O
